US03993683
[1-(2'-Fluoro-4-biphenylyl)-ethylthio]-acetic acid
6.35 gm (0.055 mol) of 80% mercaptoacetic acid were admixed in 70 ml of methanol with a solution of 6.2 gm (0.11 mol) of potassium hydroxide in 6.2 ml of water. To the solution of the dipotassium salt, 11.7 gm (0.05 mol) of 1-(2'-fluoro-4-biphenylyl)-1-chloro-ethane were added, the reaction mixture was rinsed with 20 ml of methanol and stirred for 18 hours at room temperature. Subsequently, the mixture was evaporated, the residue was digested with acetone, and the precipitated potassium salt was suction-filtered off. The free acid was obtained by dissolving the salt in water and acidifying the solution. M.p. 128°-130° C (from toluene). Yield: 55% of theory.

reactant | mercaptoacetic acid | 0.055 mol, 6.35 gm | SCC(=O)O | C2H4O2S
reactant | potassium hydroxide | 0.11 mol, 6.2 gm | [OH-].[K+]
reactant | 1-(2'-fluoro-4-biphenylyl)-1-chloro-ethane | 0.05 mol, 11.7 gm | FC1=C(C=CC=C1)C1=CC=C(C=C1)C(C)Cl | C14H12ClF
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 70 ml | CO | CH4O
solvent | water | 6.2 ml | O | H2O
product | [1-(2'-Fluoro-4-biphenylyl)-ethylthio]-acetic acid | Yield: 55% | FC1=C(C=CC=C1)C1=CC=C(C=C1)C(C)SCC(=O)O | C16H15FO2S
